US07994169B2
Pyrido[3,4-b]pyrazine (23):
2.00 g (18.33 mmol) of 3,4-diaminopyridine were added to a solution of 2.82 ml of glyoxal (40 wt. % in water, ρ=1.265 g/ml, 62.48 mmol) in 30 ml of ethanol. The reaction mixture was maintained at an oil bath temperature of 70° C. for 5 hours and after cooling to room temperature the solvent was distilled off on a rotary evaporator. The crude product was purified by flash chromatography (EtOAc/isohexane, 9:1). This gave 2.35 g (17.96 mmol, 98%) of a white powder. Rf=0.27 (isohexane/EtOAc, 1:9). 1H NMR (200 MHz, CDCl3): δ=7.94 (dd, 3J=5.8 Hz, 4J=0.6 Hz, 1H, H-7), 8.83 (d, 3J=5.8 Hz, 1H, H-8), 8.96 (d, 3J=1.6 Hz, 1H, H-3), 9.02 (d, 3J=1.6 Hz, 1H, H-2), 9.56 (d, 4J=0.6 Hz, 1H, H-5) ppm. 13C NMR (100 MHz, CDCl3): δ=121.6 (CH, C-7), 138.0 (Cq), 145.3 (Cq), 147.3 (C—H, C-8), 146.5 (C—H, C-3), 149.2 (CH, C-2), 154.8 (C—H, C-5) ppm. GC-MS (EI): RT 5.45 min, m/e (%): 132 (8), 131 (M+, 100), 104 (25), 77 (13), 50 (10) IR (KBr): ν=3435 (vs), 3092 (w), 3023 (m), 1969 (w), 1758 (w), 1631 (w), 1598 (vs), 1562 (m), 1536 (w), 1488 (s), 1436 (vs), 1416 (m), 1381 (m), 1351 (w), 1290 (w), 1279 (m), 1212 (m), 1201 (m), 1148 (w), 1033 (s), 1014 (s), 972 (w), 959 (vs), 931 (m), 881 (vs), 838 (m), 824 (s), 773 (w), 651 (s), 623 (m), 546 (w), 524 (w), 457 (s) cm1.

reactant | 3,4-diaminopyridine | 18.33 mmol, 2.00 g | NC=1C=NC=CC1N | C5H7N3
reactant | glyoxal | 62.48 mmol, 2.82 ml | C(=O)C=O | C2H2O2
reactant | isohexane EtOAc | CCCC(C)C.CCOC(=O)C
reactant | KBr | [K+].[Br-]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | Pyrido[3,4-b]pyrazine | N1=C2C(=NC=C1)C=NC=C2 | C7H5N3
